US04009174
The starting material was prepared by hydrogenating for 4 hours at ordinary pressure and room temperature methyl 6-p-methoxystyrylnicotinate (25 g.) in tetrahydrofuran (300 ml.) in the presence of Raney nickel (10 g.). After filtration and removal of the solvent in vacuo, the residue was crystallised from hexane (500 ml., with active carbon) to give methyl 6-p-methoxyphenethylnicotinate, m.p. 82° C.

reactant | methyl 6-p-methoxystyrylnicotinate | 25 g | COC1=CC=C(C=CC2=NC=C(C(=O)OC)C=C2)C=C1 | C16H15NO3
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 10 g | [Ni] | Ni
product | methyl 6-p-methoxyphenethylnicotinate | COC1=CC=C(CCC2=NC=C(C(=O)OC)C=C2)C=C1 | C16H17NO3
